US07777047B2
{2-[7-[(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid
A mixture of ethyl {2-[7-[(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate (780 mg), 1N aqueous sodium hydroxide solution (5 mL), tetrahydrofuran (5 mL) and ethanol (5 mL) was stirred at 50° C. for 30 min. The reaction mixture was acidified with aqueous citric acid solution, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The residue was crystallized from ethyl acetate-diisopropyl ether to give the title compound (490 mg, yield 64%) as brown crystals. The crystals were recrystallized from ethyl acetate-hexane to give brown prism crystals. melting point 247-248° C. (decomposition).

reactant | ethyl {2-[7-[(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetate | 780 mg | S1C(=CC=C1)S(=O)(=O)NC=1C=C(C=C2C=C(NC12)C=1SC(CN1)CC(=O)OCC)OC(F)(F)F | C20H18F3N3O5S3
reactant | sodium hydroxide | 1N, 5 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | {2-[7-[(2-thienylsulfonyl)amino]-5-(trifluoromethoxy)-1H-indol-2-yl]-4,5-dihydro-1,3-thiazol-5-yl}acetic acid | 490 mg, yield 64% | S1C(=CC=C1)S(=O)(=O)NC=1C=C(C=C2C=C(NC12)C=1SC(CN1)CC(=O)O)OC(F)(F)F | C18H14F3N3O5S3
